US06531502B1
2,3-Dihydro-5-formylbenzofuran (commercially available) was condensed with 4-methyl-2-oxindole to give 0.25 g of 3-(2,3-dihydrobenzofuran-5-ylmethylene)-4-methyl-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,3-Dihydro-5-formylbenzofuran | C(=O)C=1C=CC2=C(CCO2)C1 | C9H8O2
reactant | 4-methyl-2-oxindole | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
product | 3-(2,3-dihydrobenzofuran-5-ylmethylene)-4-methyl-1,3-dihydroindol-2-one | 0.25 g | O1CCC2=C1C=CC(=C2)C=C2C(NC1=CC=CC(=C21)C)=O | C18H15NO2
